US07981918B2
(3R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-7-yl)-pyrrolidin-2-one
Add a solution of (R)-4-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde, Preparation 38, (9.95 g, 18.9 mmol) in CH2Cl2 (300 mL) to a solution of 4,5,6,7-tetrahydro-1H-indazol-7-ylamine (2.60 g, 19.00 mmol) in acetonitrile (300 mL) and stir for 30 minutes at room temperature under N2. Add sodium triacetoxyborohydride (12.02 g, 56.9 mmol) to the reaction and stir for 72 hours. Remove the solvent in vacuo and extract solid with ethyl acetate, water and saturated NaHCO3. Dry the organic layer (Na2SO4), filter and concentrate under vacuum. Purify the residue by silica gel chromatography with a gradient of 0 to 10% methanol in CH2Cl2 to afford 2.53 g (28%) of the title compound. MS (m/z): 470 (M+).

reactant | (R)-4-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C28H25Cl2NO5
reactant | 4,5,6,7-tetrahydro-1H-indazol-7-ylamine | 19.00 mmol, 2.60 g | N1N=CC=2CCCC(C12)N | C7H11N3
reactant | sodium triacetoxyborohydride | 56.9 mmol, 12.02 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | (3R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-1-(4,5,6,7-tetrahydro-1H-indazol-7-yl)-pyrrolidin-2-one | 2.53 g, 28% | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)C2CCCC=3C=NNC23)=O)C(=C1)Cl)Cl | C25H25Cl2N3O2
